US07432288B2
N-(4-{[2,5-Dihydro-1-(2-methoxyethyl)-2,5-dioxo-4-phenyl-1H-pyrrol-3-yl]amino}phenyl)-acetamide
3-Chloro-1-(2-methoxyethyl)-4-phenyl-1H-pyrrole-2,5-dione (0.26 mmol, 70 mg) and 4-aminoacetanilide (0.53 mmol, 79 mg) was dissolved in dry CH3CN (2 mL) and the reaction mixture was subjected twice to microwave heating single node 140° C. for 10 min. 0.3 mL Water was added and the reaction mixture was purified using HPLC (57% 0.1M ammonium acetate buffer: 43% CH3CN→100% CH3CN, 20 mL/min) to give 45 mg (45%) of the title compound. 1H NMR (400 MHz, CD3CN) δ 8.17 (bs, 1H), 7.78 (bs, 1H), 7.24-7.09 (m, 5H), 7.04-7.00 (m, 2H), 6.73-6.68 (m, 2H), 3.73 (t, J=5.7 Hz, 2H), 3.59 (t, J=5.7 Hz, 2H), 3.33 (s, 3H), 2.01 (s, 3H).

reactant | 3-Chloro-1-(2-methoxyethyl)-4-phenyl-1H-pyrrole-2,5-dione | 0.26 mmol, 70 mg | ClC=1C(N(C(C1C1=CC=CC=C1)=O)CCOC)=O | C13H12ClNO3
reactant | 4-aminoacetanilide | 0.53 mmol, 79 mg | CC(=O)NC1=CC=C(C=C1)N | C8H10N2O
reactant | Water | 0.3 mL | O | H2O
solvent | CH3CN | 2 mL | CC#N | C2H3N
product | N-(4-{[2,5-Dihydro-1-(2-methoxyethyl)-2,5-dioxo-4-phenyl-1H-pyrrol-3-yl]amino}phenyl)-acetamide | 45 mg, 45% | COCCN1C(C(=C(C1=O)C1=CC=CC=C1)NC1=CC=C(C=C1)NC(C)=O)=O | C21H21N3O4
